US04448776
A mixture of 90.15 g of ethylenediamine, 50.7 g of benzhydryl chloride and 300 ml of acetonitrile is heated under reflux for 24 hours. It is partitioned between 400 ml of diethyl ether and 175 ml of 10% sodium hydroxide solution, the ether phase is separated off, dried over magnesium sulphate, evaporated to dryness and distilled under reduced pressure. N-diphenylmethylethylenediamine is obtained, b.p.0.13 =116°-124° C., m.p. 23°-24° C.

reactant | ethylenediamine | 90.15 g | C(CN)N | C2H8N2
reactant | benzhydryl chloride | 50.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C13H11Cl
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | N-diphenylmethylethylenediamine | C1(=CC=CC=C1)C(NCCN)C1=CC=CC=C1 | C15H18N2
